US20010012901A1
A solution of chlorosulfonic acid (2.79 ml) in dichloromethane (CH2Cl2) (15 ml) was added dropwise to a solution of ethyl (2,5,7,8-tetramethylchroman-2-yl)acetate (2.90 g) in CH2Cl2 (100 ml) at 0-10° C. over an hour. After stirring at room temperature for 5 hours, the reaction mixture was poured into chilled saturated aqueous sodium hydrogen carbonate (sat. as. NaHCO3). The separated organic phase was washed with sat. aq. NaHCO3, water, and brine, and dried over MgSO4. After filtration, the filtrate was concentrated under reduced pressure to give 2-ethoxycarbonylmethyl-2,5,7,8-tetramethylchroman-6-sulfonyl chloride as a syrup (3.29 g).

reactant | chlorosulfonic acid | 2.79 ml | ClS(=O)(=O)O | ClHO3S
reactant | ethyl (2,5,7,8-tetramethylchroman-2-yl)acetate | 2.90 g | CC1(OC2=C(C(=CC(=C2CC1)C)C)C)CC(=O)OCC | C17H24O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
product | 2-ethoxycarbonylmethyl-2,5,7,8-tetramethylchroman-6-sulfonyl chloride | 3.29 g | C(C)OC(=O)CC1(OC2=C(C(=C(C(=C2CC1)C)S(=O)(=O)Cl)C)C)C | C17H23ClO5S
